US07132419B2
4,10-Dihydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide
To a cold solution of 4,10-dimethoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide (96 mg) in dichloromethane (2 mL) was added a 11.0M solution of boron tribromide in dichloromethane (2.14 mL, 9 equivalents). The reaction mixture was stirred for 16 hours and then ice was added with sodium carbonate and sodium chloride. The organics were extracted into dichloromethane, dried (MgSO4), and the solvent removed in vacuo to yield an orange compound which was recrystallised from dichloromethane/methanol/hexane to yield the title compound (6 mg).

reactant | 4,10-dimethoxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 96 mg | CN(CCNC(=O)C1=C(C=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4OC)OC)C | C23H24N4O3
reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2.14 mL, 9 equivalents | ClCCl | CH2Cl2
product | 4,10-Dihydroxy-benzo[a]phenazine-11-carboxylic acid (2-dimethylamino-ethyl)-amide | 6 mg | CN(CCNC(=O)C1=C(C=CC2=NC3=CC=C4C(=C3N=C12)C=CC=C4O)O)C | C21H20N4O3
